US04156079
B. N-[[2-[-(Dimethylamino)propoxy]-5-methoxyphenyl]methylene]benzeneethanamine
2-[3-(Dimethylamino)propoxy]-5-methoxybenzaldehyde (33.5 g) and 17.4 g of phenethylamine are reacted in 140 ml of toluene following the procedure described in Example 1B yielding 39.9 g of the title compound, boiling point 197°-202° C. at 0.2-0.3 mm of Hg.

reactant | 2-[3-(Dimethylamino)propoxy]-5-methoxybenzaldehyde | 33.5 g | CN(CCCOC1=C(C=O)C=C(C=C1)OC)C | C13H19NO3
reactant | phenethylamine | 17.4 g | C(CC1=CC=CC=C1)N | C8H11N
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | N-[[2-[-(Dimethylamino)propoxy]-5-methoxyphenyl]methylene]benzeneethanamine | 39.9 g | CN(C)CCCOC1=C(C=C(C=C1)OC)C=NCCC1=CC=CC=C1 | C21H28N2O2
